*
.SUBCKT PMEG2005AEA 1 2
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1E+6
D1 1 2 PMEG2005AEA
*
.MODEL PMEG2005AEA D
+ IS = 3.334E-6
+ N = 0.9791
+ BV = 22
+ IBV = 0.0001
+ RS = 0.08222
+ CJO = 1.266E-10
+ VJ = 0.3619
+ M = 0.5
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
